US08278331B2
2-Chloro-4-(6-nitropyridin-3-yloxy)pyridine (0.540 g, 2.146 mmol) was dissolved in THF (54 ml) and MeOH (54 ml). Ammonium chloride (1.148 g, 21.46 mmol) was then added, followed by zinc dust (1.403 g, 21.46 mmol). The reaction was stirred at RT for 45 minutes, filtered over Celite® and concentrated under reduced pressure to yield 5-(2-chloropyridin-4-yloxy)pyridin-2-amine as a brown solid (0.49 g, 99%). It was used as is in the next reaction. 1H NMR (400 MHz, DMSO-d6): δ 8.46 (d, 1H), 7.81 (d, 1H), 7.30 (dd, 1H), 6.90 (m, 2H), 6.50 (d, 1H), 6.08 (s, 2H); MS (ESI) m/z: 222.0 (M+H+).

reactant | 2-Chloro-4-(6-nitropyridin-3-yloxy)pyridine | 2.146 mmol, 0.540 g | ClC1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C10H6ClN3O3
reactant | Ammonium chloride | 21.46 mmol, 1.148 g | [Cl-].[NH4+]
solvent | THF | 54 ml | C1CCOC1 | C4H8O
solvent | MeOH | 54 ml | CO | CH4O
catalyst | zinc | 21.46 mmol, 1.403 g | [Zn] | Zn
product | 5-(2-chloropyridin-4-yloxy)pyridin-2-amine | 0.49 g, 99% | ClC1=NC=CC(=C1)OC=1C=CC(=NC1)N | C10H8ClN3O
